US07265120B2
Under nitrogen atmosphere, a solution of sodium carbonate (330 mg) in water (2.4 ml) was added to a suspension of 6-(5-amino-6-bromo-3-phenyl-2-pyrazinyl)-2-isopropyl-3(2H)-pyridazinone (300 mg), tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole-1-carboxylate (573 mg) and tetrakis(triphenylphosphine)palladium (27 mg) in dioxane (6 ml) and the mixture was stirred at 100-105° C. for 4 hours. After addition of water (30 ml), a precipitate was collected by filtration and purified by column chromatography on silica gel eluting with a mixture of n-hexane and EtOAc (10:90 v/v) to give a solid. The solid was suspended in acetone and collected by filtration to give 6-[5-amino-3-phenyl-6-(1H-pyrazol-4-yl)-2-pyrazinyl]-2-isopropyl-3(2H)-pyridazinone (211 mg).

reactant | sodium carbonate | 330 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | 6-(5-amino-6-bromo-3-phenyl-2-pyrazinyl)-2-isopropyl-3(2H)-pyridazinone | 300 mg | NC=1N=C(C(=NC1Br)C=1C=CC(N(N1)C(C)C)=O)C1=CC=CC=C1 | C17H16BrN5O
reactant | tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole-1-carboxylate | 573 mg | CC1(OB(OC1(C)C)C=1C=NN(C1)C(=O)OC(C)(C)C)C | C14H23BN2O4
solvent | water | 2.4 ml | O | H2O
solvent | dioxane | 6 ml | O1CCOCC1 | C4H8O2
solvent | acetone | CC(=O)C | C3H6O
catalyst | tetrakis(triphenylphosphine)palladium | 27 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 30 ml | O | H2O
product | 6-[5-amino-3-phenyl-6-(1H-pyrazol-4-yl)-2-pyrazinyl]-2-isopropyl-3(2H)-pyridazinone | 211 mg | NC=1N=C(C(=NC1C=1C=NNC1)C=1C=CC(N(N1)C(C)C)=O)C1=CC=CC=C1 | C20H19N7O
